US05808062
3-[(Cyclohexylmethyl)thio]-4-hydroxy-6-phenyl-2H-pyran-2-one:
The title compound was prepared by Method B using 4-hydroxy-6-phenyl-2H-pyran-2-one (0.5 g, 2.66 mmol), ethanol (7 mL), 1N sodium hydroxide (2.66 mL), cyclohexylmethyl-p-toluenethiosulfonate (0.756 g, 2.66 mmol). m.p. 141°-143° C.; 1H NMR (400 MHz, DMSO-d6) δ 0.92 (m, 2 H), 1.14 (m, 3 H), 1.19 (m, 1 H), 1.61 (m, 3 H), 1.83 (m, 2 H), 2.64 (d, 2 H), 6.78 (s, 1 H), 7.53 (m, 3 H), 7.81 (m, 2 H); IR (KBr) 3106, 2922, 1651, 1547, 1396, 1099, 766 cm-1 ; MS (CI) m/e 317 (M+H, 16), 279 (83), 242 (77), 201 (27), 177 (19), 134 (54), 105 (65), 97 (100).

reactant | 3,3'-Dithiobis[4-hydroxy-6-phenyl-2H-pyran-2-one] | 2.66 mmol, 0.5 g | OC1=C(C(OC(=C1)C1=CC=CC=C1)=O)SSC=1C(OC(=CC1O)C1=CC=CC=C1)=O | C22H14O6S2
reactant | sodium hydroxide | 1N, 2.66 mL | [OH-].[Na+]
reactant | cyclohexylmethyl-p-toluenethiosulfonate | 2.66 mmol, 0.756 g | C1(CCCCC1)COS(=O)(=S)C1=CC=C(C=C1)C | C14H20O2S2
reactant | KBr | [K+].[Br-]
solvent | ethanol | 7 mL | C(C)O | C2H6O
product | 3-[(Cyclohexylmethyl)thio]-4-hydroxy-6-phenyl-2H-pyran-2-one | C1(CCCCC1)CSC=1C(OC(=CC1O)C1=CC=CC=C1)=O | C18H20O3S
